US07951805B2
A mixture of piperidin-4-yl-(2-trifluoromethylphenyl)amine (0.380 g, 1.55 mmol), 6-chloropyridazine-3-carboxylic acid (2-cyclopropylethyl)amide (0.276 g, 1.00 mmol), K2CO3 (0.277 g, 2.0 mmol) and n-Bu4NI (10 mg) in dioxane (10 mL) was heated to reflux overnight, then concentrated. The residue was purified by flash chromatography to give 6-[4-(2-trifluoromethylphenylamino)piperidin-1-yl]pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide (0.247 g). MS (ES+) m/z 434.3 (M+1).

reactant | piperidin-4-yl-(2-trifluoromethylphenyl)amine | 1.55 mmol, 0.380 g | N1CCC(CC1)NC1=C(C=CC=C1)C(F)(F)F | C12H15F3N2
reactant | 6-chloropyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | 1.00 mmol, 0.276 g | C1(CC1)CCNC(=O)C=1N=NC(=CC1)Cl | C10H12ClN3O
reactant | K2CO3 | 2.0 mmol, 0.277 g | C(=O)([O-])[O-].[K+].[K+]
catalyst | n-Bu4NI | 10 mg | [N+](CCCC)(CCCC)(CCCC)CCCC.[I-]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 6-[4-(2-trifluoromethylphenylamino)piperidin-1-yl]pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | 0.247 g | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCC(CC1)NC1=C(C=CC=C1)C(F)(F)F | C22H26F3N5O
